### PR TITLE
[Merged by Bors] - chore: deprime `induction` in `Data.{*Nat, Int, *Real}`

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
But not `Data.Num` – its material looks more suitable for full deprecation. See [Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Deprecating.20.60Num.60/with/536890373).

### CODE REVIEW

File: Mathlib/Data/ENNReal/Inv.lean [hunk 1]
```diff
@@ -226,21 +226,25 @@ protected theorem div_le_iff' {x y z : ℝ≥0∞} (h1 : y ≠ 0) (h2 : y ≠ 
...
-  by_cases h'a : a = 0
-  · simp only [h'a, top_mul, ENNReal.inv_zero, ENNReal.coe_ne_top, zero_mul, Ne,
-      not_false_iff, ENNReal.coe_zero, ENNReal.inv_eq_zero]
-  by_cases h'b : b = 0
-  · simp only [h'b, ENNReal.inv_zero, ENNReal.coe_ne_top, mul_top, Ne, not_false_iff,
-      mul_zero, ENNReal.coe_zero, ENNReal.inv_eq_zero]
-  rw [← ENNReal.coe_mul, ← ENNReal.coe_inv, ← ENNReal.coe_inv h'a, ← ENNReal.coe_inv h'b, ←
-    ENNReal.coe_mul, mul_inv_rev, mul_comm]
-  simp [h'a, h'b]
+  | coe b =>
```
Comment (eric-wieser) [inline Mathlib/Data/ENNReal/Inv.lean]: Perhaps
```suggestion
  | coe b =>?_
```
to avoid the indent increase?

File: Mathlib/Data/ENNReal/Inv.lean [hunk 2]
```diff
@@ -226,21 +226,25 @@ protected theorem div_le_iff' {x y z : ℝ≥0∞} (h1 : y ≠ 0) (h2 : y ≠ 
 
 protected theorem mul_inv {a b : ℝ≥0∞} (ha : a ≠ 0 ∨ b ≠ ∞) (hb : a ≠ ∞ ∨ b ≠ 0) :
     (a * b)⁻¹ = a⁻¹ * b⁻¹ := by
-  induction' b with b
-  · replace ha : a ≠ 0 := ha.neg_resolve_right rfl
+  induction b with
```
Comment (eric-wieser) [inline Mathlib/Data/ENNReal/Inv.lean]:
```suggestion
  cases b with
```

File: Mathlib/Data/Nat/BitIndices.lean [hunk 3]
```diff
@@ -56,30 +56,33 @@ theorem bitIndices_bit_false (n : ℕ) :
...
 
 @[simp] theorem bitIndices_sorted {n : ℕ} : n.bitIndices.Sorted (· < ·) := by
-  induction' n using binaryRec with b n hs
-  · simp
-  suffices List.Pairwise (fun a b ↦ a < b) n.bitIndices by
-    cases b <;> simpa [List.Sorted, bit_false, bit_true, List.pairwise_map]
-  exact List.Pairwise.imp (by simp) hs
+  induction n using binaryRec with
+  | z => simp
+  | f b n hs =>
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/BitIndices.lean]: Here the argument names should be fixed.

File: Mathlib/Data/ENNReal/Inv.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/ENNReal/Inv.lean]: (And for many others in this file)

Comment (Parcly-Taxel) [reply Mathlib/Data/ENNReal/Inv.lean]: Done.

File: Mathlib/Data/ENNReal/Inv.lean [hunk 4]
```diff
@@ -226,12 +226,16 @@ protected theorem div_le_iff' {x y z : ℝ≥0∞} (h1 : y ≠ 0) (h2 : y ≠ 
...
+    replace ha : a ≠ 0 := ha.neg_resolve_right rfl
     simp [ha]
-  induction' a with a
-  · replace hb : b ≠ 0 := coe_ne_zero.1 (hb.neg_resolve_left rfl)
+  | coe b => ?_
+  cases a with
+  | top =>
+    replace hb : b ≠ 0 := coe_ne_zero.1 (hb.neg_resolve_left rfl)
     simp [hb]
+  | coe a => ?_
```
Comment (eric-wieser) [inline Mathlib/Data/ENNReal/Inv.lean]: Perhaps worth asking abotu this one on Zulip; this still seems less readable to me, maybe we're missing a nice trick.

Comment (Parcly-Taxel) [reply Mathlib/Data/ENNReal/Inv.lean]: [#mathlib4 > Nested cases blocks @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Nested.20cases.20blocks/near/537019271)

File: Mathlib/Data/Nat/BitIndices.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply Mathlib/Data/Nat/BitIndices.lean]: Done.

**Comment by kim-em** [comment]
bors merge

**Comment by kim-em** [comment]
bors merge
